US05929094
Step B: 2-Methoxy-3-bromo-5-nitropyridine
The title compound was synthesized from 2-hydroxy-3-bromo-5-nitropyridine by the method of H. J. W. van den Haak et al, Recl.Trav. Chim. Pays-Bas 99(3), p83-87 (1980) using trimethyloxonium tetrafluoroborate in methylene chloride.

reactant | 2-hydroxy-3-bromo-5-nitropyridine | OC1=NC=C(C=C1Br)[N+](=O)[O-] | C5H3BrN2O3
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methoxy-3-bromo-5-nitropyridine | COC1=NC=C(C=C1Br)[N+](=O)[O-] | C6H5BrN2O3
